US08895745B2
Procedure SGI: 1-{3-[7-(Hydroxyimino-methyl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea
To a suspension of 1-[3-(7-Formyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea (50 mg, 0.14 mmol) in toluene (5 ml) was added hydroxylamine hydrochloride (11 mg, 0.15 mmol) and triethylamine (21 μl, 0.15 mmol). The reaction mixture was stirred for 10 min before tosic acid (3 mg, 0.014 mmol) was added and then stirred for a further 18 h. The resulting precipitate was filtered off and washed with Et2O to give the product (23 mg). MS: [M+H]+ 378.

reactant | 1-[3-(7-Formyl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-3-(2,2,2-trifluoro-ethyl)-urea | 0.14 mmol, 50 mg | C(=O)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C17H13F3N4O2
reactant | hydroxylamine hydrochloride | 0.15 mmol, 11 mg | Cl.NO
reactant | triethylamine | 0.15 mmol, 21 μl | C(C)N(CC)CC | C6H15N
reactant | tosic acid | 0.014 mmol, 3 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-{3-[7-(Hydroxyimino-methyl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea | 23 mg | ON=CC1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C17H14F3N5O2
